US07557213B2
Experimental conditions analogous to those described for Step 2 of Example 60 were used with 10.61 g (36.29 mmol) of 2-[(5,6-Dimethyl-pyridin-2-ylamino)-methylene]-malonic acid diethyl ester and 150 mL of diphenyl ether to yield 7.21 g of 6,7-Dimethyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester.

reactant | 2-[(5,6-Dimethyl-pyridin-2-ylamino)-methylene]-malonic acid diethyl ester | 36.29 mmol, 10.61 g | C(C)OC(C(C(=O)OCC)=CNC1=NC(=C(C=C1)C)C)=O | C15H20N2O4
solvent | diphenyl ether | 150 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6,7-Dimethyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester | 7.21 g | C(C)OC(=O)C1=CNC2=NC(=C(C=C2C1=O)C)C | C13H14N2O3
